US05306728
1.3 g of 3-(3-thienyl)phenol, 1.09 ml of 3-bromopropanal dimethylacetal and 1.1 g of potassium carbonate were dissolved in 10 ml of dimethylformamide, and the mixture was heated at 90° C. with stirring for 6 hours. Ethyl acetate and water were added, and the organic layer separated was worked up in a customary manner, then the product was purified by silica gel column chromatography [hexane / ethyl acetate=30/1→20/1] to give 1.0 g of 3-[3-(3-thienyl)phenoxy] propanal dimethylacetal as a colorless oil.

reactant | 3-(3-thienyl)phenol | 1.3 g | S1C=C(C=C1)C=1C=C(C=CC1)O | C10H8OS
reactant | 3-bromopropanal dimethylacetal | 1.09 ml | COC(CCBr)OC | C5H11BrO2
reactant | potassium carbonate | 1.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-[3-(3-thienyl)phenoxy] propanal dimethylacetal | 1.0 g | COC(CCOC1=CC(=CC=C1)C1=CSC=C1)OC | C15H18O3S
